US05932595
The N-tert-butoxy-2-[1-(4-phenoxyphenylthio)-cyclopent-1-yl]-acetamide was dissolved in trifluoroacetic acid (6 ml) and allowed to stand for 24 hours. The acid was evaporated off under reduced pressure and the product purified by preparative TLC, eluting with 6.5% methanol/methylene chloride gave N-hydroxy-2-[1-(4-phenoxyphenylthio)-cyclopent-1-yl]-acetamide (100 mg).

reactant | N-tert-butoxy-2-[1-(4-phenoxyphenylthio)-cyclopent-1-yl]-acetamide | C(C)(C)(C)ONC(CC1(CCCC1)SC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H29NO3S
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-hydroxy-2-[1-(4-phenoxyphenylthio)-cyclopent-1-yl]-acetamide | 100 mg | ONC(CC1(CCCC1)SC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C19H21NO3S
